Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Increasing somnolence and concern for aspiration
 
Major Surgical or Invasive Procedure:
PEG placement

 
History of Present Illness:
Mr. ___ is a ___ yo ___ man with history of hypertension
and recent R thalamic hemorrhage who presents from rehab with
increasing somnolence and concern for aspiration.

His family members are at bedside and provides much of the
history. He was in his usual state of health until last ___
evening, when he slumped over in his chair and found to have 
left
sided weakness. He was taken to the ___ and
found to have a right thalamic hemorrhage. He was admitted to 
the
hospital for observation and did have some fluctuating mental
status but improved to the point where he was passing his
speech/swallow evaluation consistently (2 days in a row) so he
was discharged to ___. The family members noted that
his mental status was declining at rehab and he was more sleepy
and difficult to arouse on ___. He was also complaining of
right sided headache. As he was somnolent to the point where he
was not taking his medications and there was coughing/choking
episodes with eating, he was transferred to ___ ED for
evaluation. His blood pressure ranged from SBP of 120 to 170s at
___. Head CT in ED showed hyperdense material in R
thalamus with some intraventricular extension. 

Limited ROS given patient's status but he does complain of R
sided headache and there are episodes of choking/coughing
concerning for aspiration. Family members also feel that his
dysarthria is worse. 
Denies change in vision. 

On general review of systems, no recent fever or chills. Denies
shortness of breath, chest pain or tightness. Denies nausea,
vomiting, diarrhea, constipation or abdominal pain. Denies
arthralgias or myalgias. Denies rash.
 
Past Medical History:
HTN
alcohol use (none since ___ hospitalization per daughter in 
law)
R thalamic hemorrhage (___)
 
Social History:
___
Family History:
Sister with stroke (treated in ___, unclear history). Other 
family members healthy.
 
Physical Exam:
Admission Physical Exam
Vitals: 99.6  67  157/88 (SBP ranging 150-180s)  16  98% RA
General: awake, sitting up in bed
HEENT: NC/AT
Neck: Supple without nuchal rigidity
Pulmonary: CTABL
Cardiac: RRR, no murmurs
Abdomen: soft, nontender, nondistended
Extremities: no edema, warm to touch
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert/awake, in ___, able to say his name
and state he is in a hospital. Only oriented to ___.  Unable
to relate history. Somewhat attentive, able to count 1 to 10
forward and backward without difficulty but did have some
difficulty following more complex command. Dysarthric. Could
follow simple commands in ___ such as "open/close eyes"
"show two fingers" but had difficulty with more complex 
commands.
Pt. was able to name hand, palm, thumb and thumbnail. 
Able to follow both midline and appendicular commands. Seems to
neglect L side. 

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk on R, L pupil slightly larger than 
R
but still briskly reactive. Blinks to threat bilaterally. 
III, IV, VI: R gaze preference but when called from the left
side, does look over and cross midline. No nystagmus noted.
V: Facial sensation decreased to light touch on L V1-V3
VII: L facial droop.
VIII: Hearing intact to voice.
IX, X: Unable to visualize palate
XI: ___ strength in SCM bilaterally.
XII: Tongue deviates to L

-Motor: Normal bulk; decreased tone on L side. Occasional
myoclonus noted on R arm. No drift on R arm, unable to lift L
arm. 
Moves RUE spontaneously and purposefully; good strength in
biceps/triceps. No movement in LUE, no withdrawal from noxious
stimuli. No clear spontaneous movement on RLE but does move it
command, good strength at IP/hamstring/TA/gastroc. LLE triple
flexion with noxious stimuli. 

-Sensory: Decreased pinprick and light touch throughout on L
side. No deficits on R side.
-DTRs:
  Bi ___ Pat Ach
L 2+   2+   2+  0
R 2    2    2   0
Plantar response was mute on L and down on R. 
-Coordination: Mild tremor with FNF but no dysmetria on RUE. 
-Gait: Deferred. 
.
.
.
Discharge exam:
 
Pertinent Results:
ADMISSION LABS
___ 08:30PM   ETHANOL-NEG
___ 08:30PM   ___ PTT-34.2 ___
___ 02:08PM URINE  HOURS-RANDOM UREA N-675 CREAT-81 
SODIUM-194 POTASSIUM-49 CHLORIDE-201
___ 02:08PM URINE  OSMOLAL-740
___ 02:08PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 01:25PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 01:25PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-2* PH-7.0 LEUK-NEG
___ 11:40AM   LACTATE-1.3
___ 11:20AM   GLUCOSE-97 UREA N-18 CREAT-0.8 SODIUM-130* 
POTASSIUM-4.2 CHLORIDE-96 TOTAL CO2-26 ANION GAP-12
___ 11:20AM   estGFR-Using this
___ 11:20AM   ALT(SGPT)-14 AST(SGOT)-22 ALK PHOS-77 TOT 
BILI-1.2
___ 11:20AM   ALBUMIN-4.5
___ 11:20AM   ASA-NEG ACETMNPHN-NEG bnzodzpn-NEG 
barbitrt-NEG tricyclic-NEG
___ 11:20AM   WBC-10.8 RBC-5.11# HGB-16.3# HCT-45.8# MCV-90 
MCH-31.8 MCHC-35.5* RDW-11.9
___ 11:20AM   NEUTS-75.4* LYMPHS-15.2* MONOS-6.2 EOS-2.5 
BASOS-0.7
___ 11:20AM   PLT COUNT-256#
___ 1:25 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      KLEBSIELLA PNEUMONIAE.    >100,000 ORGANISMS/ML.. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------   128 R
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

CXR ___
Mild-to-moderate cardiomegaly. Mild bibasilar atelectasis, but 
no 
focal consolidation to suggest pneumonia.  

CT Head ___
Right thalamic intraparenchymal hemorrhage with intraventricular 
extension and surrounding vasogenic edema as well as small 
amount of subarachnoid hemorrhage in the right temporal lobe.  
The stability and chronicity of the bleed would be best 
established with comparison to the outside hospital CTs.  

CT Head ___.  Stable right thalamic intraparenchymal hemorrhage with 
intraventricular extension.  No new hemorrhage. 
2.  Stable right temporal subarachnoid hemorrhage. 

Video Swallow ___
Silent aspiration of thin liquid, intermittent aspiration of 
nectar thick 
liquid, and severe pharyngeal residue of pureed food. 

CXR ___
In comparison with the study of ___, there has been placement of 
a 
Dobbhoff tube, which coils within the distal esophagus.  
Subsequent study 
dictated previously shows the Dobbhoff tube in a better 
position. 
Continued enlargement of the cardiac silhouette without definite 
vascular 
congestion.  Mild retrocardiac atelectatic changes. 

CXR ___
In comparison with the earlier study of this date, the Dobbhoff 
tube has been advanced so that it coils within the upper 
stomach.  Oral contrast material is seen in non-dilated loops of 
small bowel.  Little overall change in the appearance of the 
heart and lungs. 

 
Brief Hospital Course:
Mr. ___ is a ___ yo ___ man with history of hypertension 
and recent R thalamic hemorrhage who presents from rehab for 
eval for PEG placement, admitted to the ICU for R thalamic 
hemorrhage, which was found to be improved from prior. 
.
ACTIVE ISSUES
# Right thalamic hemorrhage: seen on CT scan, though no apparent 
change from prior. The patient was admitted to the ICU for 
concern for increased somnolence in the setting of a bleed. 
However, review of OSH imaging (which was not available at time 
of admission) showed that the patient's bleed is stable and 
improving, no new bleed, so the patient was transferred to the 
floor. Aggressive BP control was initiated given recent bleed 
(see below). ASA were both stopped initially and then SubQ 
heparin was restarted. This was stable throughout the hospital 
course. PEG was placed ___ without complication and feeds 
restarted.
.
# HTN: the patient's BP was uncontrolled on admission. He was 
controlled with IV hydral prn. He was started on amlodipine. 
Prior to discharge, amlodipine was started/stopped/etc.
.
# Klebsiella UTI: Treated with a dose of Bactrim ___. Missed 
dose ___ due to NPO after failing speech & swallow. Started 
ceftriaxone ___ which should be continued until ___. 
.
# Anion gap metabolic acidosis: In setting of respiratory 
alkalosis with overall pH 7.39. Lactate was normal. Attributed 
to ketosis in setting of NPO. Mild and stable. 
.
# Hiccups: Not correlated with increased ICP. Treated with Zydis 
x1 on ___ with complete resolution.
.
# Anemia: Mild; stable
.
INACTIVE ISSUES
# Cough: CXR without consolidation to suggest pneumonia
# GI:  continued home pantoprazole 
.
TRANSITIONAL ISSUES
# ICH: Follow up with neurology. Speech and swallow at least 
twice weekly. In the interim, continue tube feeds. 
.
# Bicarbonate: Follow at least twice weekly.
.
# UTI: No e/o urosepsis; end date antibiotics is ___ 
___. 
.
# Anemia: Trend at least twice weekly; continue work-up as 
appropraite
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Tartrate 25 mg PO BID 
2. Docusate Sodium 100 mg PO BID 
3. senna 8.8 mg/5 mL Oral HS 
4. Pantoprazole 40 mg PO Q24H 
5. Thiamine 100 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Lidocaine 5% Patch 1 PTCH TD DAILY 
8. OxycoDONE (Immediate Release)  5 mg PO Q4-6H:PRN pain 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. Lidocaine 5% Patch 1 PTCH TD DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. senna 8.8 mg/5 mL Oral HS 
5. Pantoprazole 40 mg PO Q24H 
6. Thiamine 100 mg PO DAILY 
7. Metoprolol Tartrate 25 mg PO BID 
8. CeftriaXONE 1 gm IV Q24H 
End date ___. Caphosol 30 mL ORAL QID 
10. FoLIC Acid 1 mg PO DAILY 
11. OxycoDONE (Immediate Release)  5 mg PO Q4-6H:PRN pain 
12. Heparin 5000 UNIT SC TID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Dysphagia
Right thalamic hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ on 
___ for difficulty swallowing. A CT head showed that the 
bleeding in your brain appears stable. A feeding tube (PEG tube) 
was placed on ___. You were started on tube feeds and the 
rest of your home medications and were discharged back to your 
rehab facility on ___.

We made the following changes to your medications:
START
1. Ceftriaxone 1gm q24 hours (can be replaced with Bactrim if 
all goes well with PEG) last dose to be given: ___
2. Caphasol
3. Folic acid
******

If you experience any of the below listed danger signs, please 
call your doctor or go to the nearest Emergency Department.

It was a pleasure taking care of you during your hospital stay.
 
Followup Instructions:
___